US07074532B2
4-(Diethylamino)benzaldehyde N-2,3-epoxypropyl-N-phenylhydrazone was prepared according to the preparation procedure above for 9-ethyl-3-carbazolecarboxaldehyde N-2,3-epoxypropyl-N-phenylhydrazone except that 9-ethyl-3-carbazolecarboxaldehyde phenylhydrazone was replaced by 4-(diethylamino)benzaldehyde phenylhydrazone and the product was recrystallized from diethyl ether. The yield of 4-(diethylamino)benzaldehyde N-2,3-epoxypropyl-N-phenylhydrazone was 69%. The product had a melting point of 79–80.5° C. when recrystallized from diethyl ether. A 1H-NMR spectrum was obtained in CDCl3 with the following results (δ in ppm, 250 MHz): δ=7.7–6.7 (m, 8H, Ar, CH═N); δ=6.6 (d, 2H, 2-H, 6-H of p-Ph); δ=4.4–3.6 (m, 2H, NCH2CH); δ=3.6–3.0 (m, 5H, CH2CH3, CH2CHCH2); δ=2.75 (m, 1H, ABX, cis-HA of CH2O); δ=2.55 (m, ABX, trans-HB of CH2O); δ=1.1 (t, J=7.0 Hz, 6H, CH3). An elemental analysis found the following weight percents of the elements: C, 74.45; H, 7.84; N, 12.72, which compares with the following calculated elemental weight percent for a compound with the formula C20H25N3O of: C, 74.27; H, 7.79; N, 12.99.

reactant | 9-ethyl-3-carbazolecarboxaldehyde N-2,3-epoxypropyl-N-phenylhydrazone | O1C(CN(N=CC=2C=CC=3N(C4=CC=CC=C4C3C2)CC)C2=CC=CC=C2)C1 | C24H23N3O
reactant | 9-ethyl-3-carbazolecarboxaldehyde phenylhydrazone | C1(=CC=CC=C1)NN=CC=1C=CC=2N(C3=CC=CC=C3C2C1)CC | C21H19N3
reactant | 4-(diethylamino)benzaldehyde phenylhydrazone | C1(=CC=CC=C1)NN=CC1=CC=C(C=C1)N(CC)CC | C17H21N3
reactant | CH2O | C=O | CH2O
product | 4-(Diethylamino)benzaldehyde N-2,3-epoxypropyl-N-phenylhydrazone | O1C(CN(N=CC2=CC=C(C=C2)N(CC)CC)C2=CC=CC=C2)C1 | C20H25N3O
